US07842688B2
c) [3-Methoxy-2-(2-methoxyethoxy)phenyl]methanol
Analogously to Method F, 2.67 g of 2-hydroxymethyl-6-methoxyphenol and 2.19 g of 1-chloro-3-methoxypropane are reacted. The title compound is obtained as a colourless oil. Rf=0.23 (1:1 EtOAc-heptane); Rt=3.08.

reactant | 2-hydroxymethyl-6-methoxyphenol | 2.67 g | OCC1=C(C(=CC=C1)OC)O | C8H10O3
reactant | 1-chloro-3-methoxypropane | 2.19 g | ClCCCOC | C4H9ClO
product | [3-Methoxy-2-(2-methoxyethoxy)phenyl]methanol | COC=1C(=C(C=CC1)CO)OCCOC | C11H16O4
